US06762197B2
A mixture of 3.0 g (14.8 mmol) of 4-phenylbenzyl chloride, 10 ml of toluene and 5.6 ml (26.6 mmol) of a 30 wt % trimethylamine aqueous solution was stirred for 3.7 hours at 60° C. The reaction solution was separated, and the resulted aqueous layer was washed with t-butyl methyl ether. The aqueous layer was filtrated through celite, and the filtrate was concentrated to obtain 4.07 g of (4-methylbenzyl)-trimethylammonium chloride having a melting point of 204.8° C.

reactant | 4-phenylbenzyl chloride | 14.8 mmol, 3.0 g | C1(=CC=CC=C1)C1=CC=C(CCl)C=C1 | C13H11Cl
reactant | trimethylamine | CN(C)C | C3H9N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (4-methylbenzyl)-trimethylammonium chloride | 4.07 g | [Cl-].CC1=CC=C(C[N+](C)(C)C)C=C1 | InChI=1S/C11H18N.ClH/c1-10-5-7-11(8-6-10)9-12(2,3)4;/h5-8H,9H2,1-4H3;1H/q+1;/p-1
